US06794397B2
6-Chloro-N-(4,5-difluoro-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 4,5-difluoro-2-nitroaniline and was obtained as a yellow solid as described in Example 1. 1H NMR (CDCl3): 11.49 (bs, 1H), 9.04-8.97 (m, 2H), 8.25-8.19 (m, 2H), 7.56-7.53 (m, 1H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 4,5-difluoro-2-nitroaniline | FC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4F2N2O2
product | 6-Chloro-N-(4,5-difluoro-2-nitrophenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C12H6ClF2N3O3
